US05607898
5 ml of acetic acid was added to 3.0 g (11 mmol) of 6-acetyl-5-chloro-4,4,8-trimethylthiochroman, 3.7 g (33 mmol) of a 30% hydrogen peroxide aqueous solution was further added, and the mixture was heated at 80° C. for 2 hours. 20 ml of a 2% sodium hydrogensulfite was added to the reaction mixture, and a precipitated solid was recovered by filtration to give 2.8 g (yield 85%) of 6-acetyl-5-chloro-4,4,8-trimethylthiochroman-1,1-dioxide.

reactant | 6-acetyl-5-chloro-4,4,8-trimethylthiochroman | 11 mmol, 3.0 g | C(C)(=O)C=1C(=C2C(CCSC2=C(C1)C)(C)C)Cl | C14H17ClOS
reactant | hydrogen peroxide | OO | H2O2
reactant | sodium hydrogensulfite | S(=O)(O)[O-].[Na+]
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 6-acetyl-5-chloro-4,4,8-trimethylthiochroman-1,1-dioxide | 2.8 g, yield 85% | C(C)(=O)C=1C(=C2C(CCS(C2=C(C1)C)(=O)=O)(C)C)Cl | C14H17ClO3S
